' test delete in subckts
.subckt aa (a b c)
r1 (a b) 1
r2 (b 0) 1
r3 (b c) 1
x1 (a b) bb
.ends aa
.subckt bb (1 2)
r1 (1 2) 1k
.ends bb
x1 (1 2 3) aa
v1 (1 0) dc 1
.list
.print op v(nodes)
.op
.delete x1.r1
.print op v(nodes)
.op
.list
.delete aa.r1
.print op v(nodes)
.op
.list
.delete r1.v1
.list
.print op v(nodes)
.op
.end
